US06211215B1
A mixture of 2-(4-cyanophenyl)-4-[4-[3-(1-imidazolyl)propyl]phenoxymethyl]oxazole (700 mg), sodium azide (585 mg), ammonium chloride (480 mg) and N,N-dimethylformamide (20 ml) was stirred for 24 hours at temperatures ranging from 130 to 135° C. The reaction mixture was poured into water, which was neutralized with 1N hydrochloric acid. The resulting crystalline precipitate was collected by filtration. The filtrate was subjected to extraction with ethyl acetate-tetrahydrofuran. The organic layer was washed with water, dried (MgSO4), and concentrated to leave a crystalline product. Both crystalline products were combined and recrystallized from methanol to give 5-[4-[4-[4-[3-(1-imidazolyl)propyl]phenoxymethyl]-2-oxazolyl]phenyl]-1H-tetrazole (250 mg, 33%) as colorless prisms, mp 273-275° C. (decomp.).

reactant | 2-(4-cyanophenyl)-4-[4-[3-(1-imidazolyl)propyl]phenoxymethyl]oxazole | 700 mg | C(#N)C1=CC=C(C=C1)C=1OC=C(N1)COC1=CC=C(C=C1)CCCN1C=NC=C1 | C23H20N4O2
reactant | sodium azide | 585 mg | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 480 mg | [Cl-].[NH4+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 5-[4-[4-[4-[3-(1-imidazolyl)propyl]phenoxymethyl]-2-oxazolyl]phenyl]-1H-tetrazole | 250 mg, 33% | N1(C=NC=C1)CCCC1=CC=C(OCC=2N=C(OC2)C2=CC=C(C=C2)C2=NN=NN2)C=C1 | C23H21N7O2
